US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-methylphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-methylphenylboronic acid (117 mg, 0.86 mmol) the subtitle compound was obtained, (69 mg, 33%). 1H NMR (DMSO) δ 8.64(d, 1H), 847(dd, 1H), 8.14(d, 1H), 7.86(d, 1H), 7.72(dd, 1H), 7.64(d, 1H), 7.55(m, 2H), 7.39(t, 1H), 7.22(d, 1H), 4.07(s, 1H), 2.40(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-methylphenylboronic acid | 0.86 mmol, 117 mg | CC=1C=C(C=CC1)B(O)O | C7H9BO2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-methylphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)C | C21H16N2O4
